US07419984B2
(S)-2-Amino-succinic acid 4-{4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin4-ylamino]-benzyl} ester
Following the method described in Example 64, (S)-2-tert-butoxycarbonylamino-succinic acid 4-{4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl} ester 1-tert-butyl ester and hydrogen chloride provided the title compound (69% yield). 1H NMR (DMSO-d6) δ 1.39 (t, 3H, J=7.0 Hz, CH3), 3.00-3.03 (m, 2H, CH2), 4.17 (q, 2H, J=6.9 Hz, CH2), 4.24 (s, 1H, CH), 5.16 (s, 2H, CH2), 6.74 (s, 1H, Ar), 7.28 (d, 1H, J=8.9 Hz, Ar), 7.43 (d, 2H, J=8.4 Hz, Ar), 7.61-7.68 (m, 2H, Ar), 7.88 (d, 2H, J=8.0 Hz, Ar), 8.52 (s, 3H), 11.23 (s, 1H), 12.77 (s, 1H).

reactant | (S)-2-tert-butoxycarbonylamino-succinic acid 4-{4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl} ester 1-tert-butyl ester | C(C)(C)(C)OC([C@H](CC(=O)OCC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N)NC(=O)OC(C)(C)C)=O | C32H40ClN5O7
reactant | hydrogen chloride | Cl | ClH
product | (S)-2-Amino-succinic acid 4-{4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin4-ylamino]-benzyl} ester | 69% yield | NC1=NC(=CC(=N1)NC1=CC=C(COC(C[C@@H](C(=O)O)N)=O)C=C1)C1=C(C=CC(=C1)Cl)OCC | C23H24ClN5O5
